US04994486
Step 5:[1R,3S] 1,3-Bis(azidomethyl)-3,4-dihydro-5-methoxy-8-methyl-1H-2-benzopyran
Methanesulfonyl chloride (0.128 mL, 1.65 mmol) is added dropwise to a solution of [1R,3S] 1-azidomethyl-3,4-dihydro-3-hydroxymethyl-5-methoxy-8-methyl-1H-2-benzopyran (395 mg, 1.5 mmol), from Step 4, and 0.314 mL (2.25 mmol) of triethylamine (TEA) in 15 mL of methylene chloride at 0° C. After stirring for 30 min at 0° C., the reaction mixture is transferred to a separatory funnel and diluted with diethyl ether. The layers are separated and the organic layer is washed with 2×20 mL of water, 2×15 mL of 1 N aqueous hydrochloric acid solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue is dissolved in 20 mL of DMF and 440 mg (9 mmol) of lithium azide is added. The reaction mixture is heated to 80° C. and stirred at 80° C. for 4 h then cooled and poured into 50 mL of water. The aqueous solution is extracted with 3×30 mL of diethyl ether and the combined ether extracts are washed with 30 mL of water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified on silica gel to give the title compound.

reactant | Methanesulfonyl chloride | 1.65 mmol, 0.128 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | [1R,3S] 1-azidomethyl-3,4-dihydro-3-hydroxymethyl-5-methoxy-8-methyl-1H-2-benzopyran | 1.5 mmol, 395 mg | N(=[N+]=[N-])C[C@@H]1O[C@@H](CC2=C1C(=CC=C2OC)C)CO | C13H17N3O3
reactant | triethylamine | 2.25 mmol, 0.314 mL | C(C)N(CC)CC | C6H15N
reactant | lithium azide | 9 mmol, 440 mg | [N-]=[N+]=[N-].[Li+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | [1R,3S] 1,3-Bis(azidomethyl)-3,4-dihydro-5-methoxy-8-methyl-1H-2-benzopyran | N(=[N+]=[N-])C[C@@H]1O[C@@H](CC2=C1C(=CC=C2OC)C)CN=[N+]=[N-] | C13H16N6O2
